US07465815B2
To a mixture of hydroxy(4-isopropylphenyl)acetic acid (10.0 g, 46.5 mmol) synthesized in Reference Example 1 and 3-bromo-2,4,5-trimethylphenol synthesized in Reference Example 68 (8.2 g, 42.2 mmol) was added 70% sulfuric acid (10 mL) at room temperature, and the mixture was stirred at 115° C. for 4 hours. The mixture was added to water, which was extracted with diisopropyl ether. The extract was washed with water and a saturated sodium hydrogen carbonate solution, and then was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain the residue, which was purified by silica gel column chromatography (ethyl acetate:hexane=1:8) to obtain 6-bromo-3-(4-isopropylphenyl)-4,5,7-trimethyl-1-benzofuran-2 (3H)-one. To a solution of the compound in THF (80 mL) was added lithium aluminum hydride (2.40 g, 63.3 mmol) at 0° C., and the mixture was heated under reflux for 1 hour. Water was added to the reaction solution, and the product was extracted with ethyl acetate. The combined extract was washed with water, dried over magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was crystallized from hexane-ethyl acetate to obtain 15.5 g (yield 97%) of the title compound. Melting point: 96-97° C.

reactant | hydroxy(4-isopropylphenyl)acetic acid | 46.5 mmol, 10.0 g | OC(C(=O)O)C1=CC=C(C=C1)C(C)C | C11H14O3
reactant | 3-bromo-2,4,5-trimethylphenol | BrC=1C(=C(C=C(C1C)C)O)C | C9H11BrO
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 6-bromo-3-(4-isopropylphenyl)-4,5,7-trimethyl-1-benzofuran-2 (3H)-one | BrC1=C(C2=C(C(C(O2)=O)C2=CC=C(C=C2)C(C)C)C(=C1C)C)C | C20H21BrO2
